US04853410
6-Cyano-2-benzylchroman-4-one
Methyl 2-benzylchroman-4-one-6-carboxylate, the product of Preparation A33, is converted to the corresponding amide by the action of a molar excess of ammonia in aqueous methanol, recovered by simple stripping of the solvent and excess ammonia. In turn, the amide is converted to the title nitrile by the action of p-toluenesulfonyl chloride on a pyridine solution of the amide, according to the conditions of Stephens et al., J. Am. Chem. Soc., Vol. 77, pp 1701-1702 (1955). This product is well suited for the preparation of 6-cyano-c-4-hydroxy-r-2-benzylchroman-4-acetic acid by the methods of Examples above.

reactant | Methyl 2-benzylchroman-4-one-6-carboxylate | C(C1=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)=O)C(=O)OC | C18H16O4
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 6-Cyano-2-benzylchroman-4-one | C(#N)C=1C=C2C(CC(OC2=CC1)CC1=CC=CC=C1)=O | C17H13NO2
